US09260450B2
Step v: 2-[4-Methyl-2-(6-methyl-pyridin-2-yl)-2H-pyrazol-3-yl]-thieno[3,2-c]pyridine
An oven-dried three-neck round-bottom flask equipped with reflux condenser and gas inlet valve was charged with thieno[3,2-c]pyridine-2-boronic acid trihydrogen phosphate (1.0 g), trifluoro-methanesulfonic acid 4-methyl-2-(6-methyl-pyridin-2-yl)-2H-pyrazol-3-yl ester (1.16 g), potassium phosphate tribasic (2.3 g), 1,4-dioxane (30 mL), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (0.60 g), and 1,1′-bis(diphenylphosphino)ferrocene (0.40 g) and the stirring mixture was brought to reflux under a nitrogen atmosphere for 18 hours. The reaction mixture was diluted with ethyl acetate (250 mL) and the solution was treated with activated carbon and filtered through Celite. The filtrate was concentrated under reduced pressure and the concentrate was purified by silica gel chromatography. Elution through a 120 g RediSep flash silica cartridge on a Biotage system with 100% heptane to 100% ethyl acetate over 1800 mL followed by 100% ethyl acetate until material with the desired mass elutes afforded an oil (1.2 g); MS (APCl+) m/z 307 (MH+). The product was further purified by dissolving in acetonitrile (30 mL) and dividing into two equal portions. After filtration, the solutions were sequentially purified by prep HPLC (Waters prep HPLC system; Stationary phase: Waters DeltPak C18 5 μm, 100 Angstrom, 300×50 mm I.D., P/N 011801, WAT 011801, No. 330009125W; Mobile phase 90:10 to 50:50 water-acetonitrile with 0.1% formic acid over 30 minutes). The combined fractions were concentrated under reduced pressure to an aqueous solution, removing the acetonitrile. The clear aqueous solution was treated with saturated aqueous potassium carbonate to give a cloudy white suspension. The suspension was allowed to stand at room temperature overnight. The solid white precipitate that had formed was collected by vacuum filtration and was dried in the vacuum oven (77° C.) overnight to afford the title compound as a white solid (0.506 g). melting point 157-158° c.

reactant | thieno[3,2-c]pyridine-2-boronic acid trihydrogen phosphate | 1.0 g | P(=O)(O)(O)O.S1C(=CC=2C=NC=CC21)B(O)O
reactant | trifluoro-methanesulfonic acid 4-methyl-2-(6-methyl-pyridin-2-yl)-2H-pyrazol-3-yl ester | 1.16 g | CC1=C(N(N=C1)C1=NC(=CC=C1)C)OS(=O)(=O)C(F)(F)F | C11H10F3N3O3S
reactant | potassium phosphate tribasic | 2.3 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
catalyst | PdCl2(dppf) | 0.60 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.40 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 2-[4-Methyl-2-(6-methyl-pyridin-2-yl)-2H-pyrazol-3-yl]-thieno[3,2-c]pyridine | 1.2 g | CC1=C(N(N=C1)C1=NC(=CC=C1)C)C1=CC=2C=NC=CC2S1 | C17H14N4S
